US06369273B1
3-Cyano-4-nitrobenzophenone
A stirred mixture of 3-chloro-4-nitrobenzophenone (5.00 g), (J. Org. Chem., 1962, 27, 1605-1608), and copper(I)cyanide (2.57 g) in DMF (50 ml) was heated at reflux for 16 hours. The hot reaction mixture was then poured into a stirred solution of ferric chloride (15.30 g) concentrated hydrochloric acid (5 ml) and water (200 ml). The mixture was heated at 65-70° C. for 30 minutes, cooled to ambient temperature treated with ethyl acetate (250 ml) and stirred vigorously for 5 minutes. The organic phase was separated and the aqueous layer extracted with another 250 ml portion of ethyl acetate. The combined organics were dried, filtered and evaporated to give a brown oil. Chromatography (eluent toluene) gave the title compound (2.77 g) as a yellow solid. M.p. 117-119° C.; EA C14H8N2O3 requires C, 66.67; H, 3.02; N, 11.11%; found: C, 66.83; H, 2.99; N, 11.12%.

reactant | 3-chloro-4-nitrobenzophenone | 5.00 g | ClC=1C=C(C(=O)C2=CC=CC=C2)C=CC1[N+](=O)[O-] | C13H8ClNO3
reactant | copper(I)cyanide | 2.57 g | [Cu]C#N
reactant | water | 200 ml | O | H2O
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Cyano-4-nitrobenzophenone | 2.77 g | C(#N)C=1C=C(C(=O)C2=CC=CC=C2)C=CC1[N+](=O)[O-] | C14H8N2O3
